US09287510B2
In an Ar atmosphere, the crystals of 2-(4-bromophenyl)-naphthalene obtained in Synthesis Step C1-3, 10 g, and 500 mL of anhydrous tetrahydrofuran were put into a 1-L flask, and then 22 mL of a 1.6 mol/L n-BuLi solution in hexane was added dropwise at −60° C. over 30 minutes. Thirty minutes later, 7 g of triisopropyl borate was added dropwise, and then the reaction was allowed to proceed overnight with no temperature control. After the completion of the reaction, 100 mL of water was added dropwise, and the obtained solution was subjected to extraction with 2 L of toluene and separated. The isolated organic layer was concentrated, the residue was recrystallized, and the crystals were collected by filtration and dried. In this way, a phenylboronic acid derivative was obtained as a white solid weighing 5 g.

reactant | n-BuLi | 1.6 mol/L | [Li]CCCC
reactant | triisopropyl borate | 7 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | water | 100 mL | O | H2O
reactant | hexane | CCCCCC | C6H14
product | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
